US06608203B2
1-[4-(2-Pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinolin-6-ol
A mixture of 6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline (0.300 g, 0.70 mmol), ammonium formate (0.883 g, 14.0 mmol), and 20% Pd(OH)2/C (0.050 g) in MeOH (50 ml) was refluxed under N2 for 1 hr, then filtered through Celite®. The filtrate was evaporated in vacuo to a yellow residue that was suspended in a mixture of H2O (5 ml) and saturated NaHCO3 solution (5 ml), then extracted with CH2Cl2 (4×10 ml). The combined organic extracts were dried over MgSO4 and concentrated in vacuo to give 0.133 g of yellow oil. The aqueous layer was extracted again with CH2Cl2 (4×50 ml) to give an additional 0.083 g of yellow oil, for a total of 0.216 g (91% yield) of product.

reactant | 6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.70 mmol, 0.300 g | C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H32N2O2
reactant | ammonium formate | 14.0 mmol, 0.883 g | C(=O)[O-].[NH4+]
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd(OH)2/C | 0.050 g | [OH-].[OH-].[Pd+2]
product | 1-[4-(2-Pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.133 g | N1(CCCC1)CCOC1=CC=C(C=C1)C1NCCC2=CC(=CC=C12)O | C21H26N2O2
